US08044041B2
1,4-Dichloro-6-amino-phthalazine
A mixture of 1,4-dichloro-6-nitro-phthalazine (1.24 g, 5.09 mmol), EtOH (20 mL), saturated aqueous NH4Cl (20 mL) and iron powder (1.42 g, 25.47 mmol) was heated to reflux for 4 h then concentrated. The residue was taken up in EtOAc washed with saturated aqueous NaHCO3, brine, dried (Na2SO4) and concentrated. Column chromatography (Hexanes/EtOAc) afforded the desired product (0.33 g, 30%) as a pale yellow solid.

reactant | 1,4-dichloro-6-nitro-phthalazine | 5.09 mmol, 1.24 g | ClC1=NN=C(C2=CC(=CC=C12)[N+](=O)[O-])Cl | C8H3Cl2N3O2
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
catalyst | iron | 25.47 mmol, 1.42 g | [Fe] | Fe
solvent | EtOH | 20 mL | CCO | C2H6O
product | 1,4-Dichloro-6-amino-phthalazine | 0.33 g, 30% | ClC1=NN=C(C2=CC(=CC=C12)N)Cl | C8H5Cl2N3
